US06750231B2
3,4-Dimethyl-1-(3-tetrahydro-3-furanylpropyl)-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine
To a solution of 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine (Preparation 44, 45 mg, 0.18 mmol) in N,N-dimethylformamide (5 mL) was added 3-(tetrahydro-3-furanyl)propionic acid (Preparation 47, 28 mg, 0.19 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (44 mg, 0.23 mmol) and 1-hydroxybenzotriazole hydrate (24 mg, 0.18 mmol). The resultant mixture was heated to 80° C. and stirred overnight. The reaction mixture was cooled, poured onto saturated aqueous sodium hydrogencarbonate solution (100 mL) and extracted with ethyl acetate (3×20 mL). The combined organics were dried over MgSO4 and concentrated in vacuo to give an off-white gum. The product was dissolved in tetrahydrofuran (2 mL) and cooled to 0° C. The solution was treated dropwise with lithium aluminium hydride (1.0 M solution in THF, 0.35 mL, 0.35 mmol). The reaction was allowed to warm to room temperature and stirred overnight. The reaction mixture was treated with saturated ammonium chloride solution and the product extracted with ethyl acetate (3×10 mL). The combined organics were dried over Na2SO4 and the solvent removed in vacuo to give a white gum. The crude product was purified by reverse-phase high performance liquid chromatography (condition 1) to give the title compound as a clear oil (17 mg, 26%).

reactant | 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | 0.18 mmol, 45 mg | CC1CNCCC1(C1=CC(=CC=C1)C=1N=NNC1)C | C15H20N4
reactant | 3-(tetrahydro-3-furanyl)propionic acid | 0.19 mmol, 28 mg | O1CC(CC1)CCC(=O)O | C7H12O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.23 mmol, 44 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.18 mmol, 24 mg | O.ON1N=NC2=C1C=CC=C2
reactant | sodium hydrogencarbonate | 100 mL | C(O)([O-])=O.[Na+]
reactant | lithium aluminium hydride | 0.35 mmol, 1.0 M, 0.35 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3,4-Dimethyl-1-(3-tetrahydro-3-furanylpropyl)-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | 17 mg, 26% | CC1CN(CCC1(C1=CC(=CC=C1)C=1N=NNC1)C)CCCC1COCC1 | C22H32N4O
